US09216999B2
trans-Ethyl 2-(4-fluorophenyl)cyclopropanecarboxylate
Trimethylsulfoxonium iodide (7.92 g, 36.0 mmol) in dimethyl sulfoxide (40 mL) was mixed with sodium hydride (55 wt % dispersion in mineral oil, 1.57 g, 36.0 mmol) under cooling with ice, stirred at room temperature for 1 hour and then stirred with (E)-ethyl 3-(4-fluorophenyl)acrylate (5.83 g, 30.0 mmol) for 18 hours. After addition of water, the reaction mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1) to give the title compound as a colorless oil (793 mg, yield 13%).

reactant | Trimethylsulfoxonium iodide | 36.0 mmol, 7.92 g | [I-].C[S+](=O)(C)C
reactant | sodium hydride | 36.0 mmol, 1.57 g | [H-].[Na+]
reactant | (E)-ethyl 3-(4-fluorophenyl)acrylate | 30.0 mmol, 5.83 g | FC1=CC=C(C=C1)/C=C/C(=O)OCC | C11H11FO2
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 40 mL | CS(=O)C | C2H6OS
product | trans-Ethyl 2-(4-fluorophenyl)cyclopropanecarboxylate | 793 mg, yield 13% | FC1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)OCC | C12H13FO2
